US08975400B2
4-(2-fluoro-4-formylphenoxy)picolinonitrile
To a solution of 4-((2-chloropyridin-4-yl)oxy)-3-fluorobenzaldehyde (580 mg, 2.31 mmol) and dicyanozinc (271 mg, 2.31 mmol) in N,N-dimethylacetamide (DMA) (4 mL) was added tetrakis(triphenylphosphine)palladium(0) (266 mg, 0.230 mmol). The reaction mixture was sealed in a microwave vial and irradiated with a microwave using initial normal to 100° C. for 1 h, and then filtered. Direct purification via reversed phase chromatography (acetonitrile/water: 5%-95%, 0.25% NH4OH) afforded the title product (170 mg) as a white solid.

reactant | 4-((2-chloropyridin-4-yl)oxy)-3-fluorobenzaldehyde | 2.31 mmol, 580 mg | ClC1=NC=CC(=C1)OC1=C(C=C(C=O)C=C1)F | C12H7ClFNO2
reactant | dicyanozinc | 2.31 mmol, 271 mg | C(#N)[Zn]C#N
solvent | N,N-dimethylacetamide | 4 mL | CN(C(C)=O)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.230 mmol, 266 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-fluoro-4-formylphenoxy)picolinonitrile | 170 mg | FC1=C(OC2=CC(=NC=C2)C#N)C=CC(=C1)C=O | C13H7FN2O2
